data/polar.json
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[N:3]1([c:5]2[c:25]([CH3:7])[cH:21][c:13]([CH3:11])[cH:24][c:28]2[CH3:10])[CH:20]=[CH:19][N:4]([c:6]2[c:26]([CH3:8])[cH:22][c:14]([CH3:12])[cH:23][c:27]2[CH3:9])[C:29]1=[CH2:16].[cH:1]1[cH:2][cH:18][cH:31][cH+:15][cH:30][cH:17]1>>[CH:1]1=[CH:2][CH:18]=[CH:31][CH:15]([CH2:16][c:29]2[n+:3](-[c:5]3[c:25]([CH3:7])[cH:21][c:13]([CH3:11])[cH:24][c:28]3[CH3:10])[cH:20][cH:19][n:4]2-[c:6]2[c:26]([CH3:8])[cH:22][c:14]([CH3:12])[cH:23][c:27]2[CH3:9])[CH:30]=[CH:17]1", "epd": [["LP-/Pi+", [3], [29, 3]], ["Pi-/Sigma+", [16, 29], [16, 15]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH:2]1([C:4](=[O:15])[O:24][CH3:6])[CH2:7][CH2:20][CH2:16][N:22]1[C:17]1=[CH:10][CH2:3][CH2:21][CH2:12][CH2:5]1.[cH:1]1[cH:8][cH:18][c:14]([N+:11](=[CH2:13])[CH3:23])[cH:19][cH:9]1>>[cH:1]1[cH:8][cH:18][c:14]([N:11]([CH2:13][CH:10]2[CH2:3][CH2:21][CH2:12][CH2:5][C:17]2=[N+:22]2[CH:2]([C:4](=[O:15])[O:24][CH3:6])[CH2:7][CH2:20][CH2:16]2)[CH3:23])[cH:19][cH:9]1", "epd": [["LP-/Pi+", [22], [17, 22]], ["Pi-/Sigma+", [10, 17], [10, 13]], ["Pi-/LP+", [13, 11], [11]]]}
{"reaction_name": "Friedel–Crafts acylation", "rsmi": "[c:1]1([H:10])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[CH3:7][C+:8]=[O:9]>>[c:1]1([C:8](=[O:9])[CH3:7])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[H+:10]", "epd": [["Sigma-/Sigma+", [1, 10], [1, 8]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:3]([CH3:6])([CH:8]=[CH2:5])=[O:9].[CH2-:1][C:7]([CH3:2])=[O:4]>>[CH2:1]([CH2:5][CH-:8][C:3]([CH3:6])=[O:9])[C:7]([CH3:2])=[O:4]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Pi-/LP+", [5, 8], [8]]]}
{"reaction_name": "Polycarbonate formation", "rsmi": "[C:1](=[O:2])([Cl:9])[Cl:10].[CH3:3][CH2:11][O:5][H:7].[CH3:4][CH2:12][O:6][H:8]>>[C:1](=[O:2])([O:5][CH2:11][CH3:3])[O:6][CH2:12][CH3:4].[H:7][Cl:9].[H:8][Cl:10]", "epd": [["LP-/Sigma+", [5], [1, 5]], ["Pi-/LP+", [1, 2], [2]], ["LP-/Pi+", [2], [1, 2]], ["Sigma-/LP+", [1, 9], [9]], ["LP-/Sigma+", [9], [7, 9]], ["Sigma-/LP+", [5, 7], [5]], ["LP-/Sigma+", [6], [1, 6]], ["Pi-/LP+", [1, 2], [2]], ["LP-/Pi+", [2], [1, 2]], ["Sigma-/LP+", [1, 10], [10]], ["LP-/Sigma+", [10], [8, 10]], ["Sigma-/LP+", [6, 8], [6]]]}
{"reaction_name": "[2,3]-Wittig rearrangement", "rsmi": "[CH2:1]([O:2][CH2-:4])[CH:3]=[CH2:5]>>[CH2:1]([CH:3]=[CH2:5])[CH2:4][O-:2]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Sigma-/LP+", [1, 2], [2]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:11][cH:29][c:4]([S:36](=[O:5])(=[O:6])[CH:13]=[C:31]2[CH:2]=[CH:22][C:32](=[N+:28]([O-:16])[O-:17])[CH:23]=[CH:3]2)[cH:30][cH:12]1.[cH:7]1[c:14]([CH+:35][c:15]2[cH:8][c:20]([F:26])[cH:34][c:21]([F:27])[cH:9]2)[cH:10][c:18]([F:24])[cH:33][c:19]1[F:25]>>[cH:1]1[cH:11][cH:29][c:4]([S:36](=[O:5])(=[O:6])[CH:13]([c:31]2[cH:2][cH:22][c:32]([N+:28](=[O:16])[O-:17])[cH:23][cH:3]2)[CH:35]([c:14]2[cH:7][c:19]([F:25])[cH:33][c:18]([F:24])[cH:10]2)[c:15]2[cH:8][c:20]([F:26])[cH:34][c:21]([F:27])[cH:9]2)[cH:30][cH:12]1", "epd": [["LP-/Pi+", [16], [28, 16]], ["Pi-/Pi+", [32, 28], [23, 32]], ["Pi-/Pi+", [3, 23], [31, 3]], ["Pi-/Sigma+", [13, 31], [13, 35]]]}
{"reaction_name": "Ugi imidoyl transfer step", "rsmi": "[CH3:1][N+:3]#[C-:7].[N:5]([CH3:10])([H:13])[H:14].[O:2]=[C:4]([CH3:6])[OH:12].[O:8]=[CH:11][CH3:9]>>[CH3:1][N:3]([C:7](=[O:8])[CH:11]([N:5]([C:4](=[O:2])[CH3:6])[CH3:10])[CH3:9])[H:13].[OH:12][H:14]", "epd": [["LP-/Sigma+", [7], [7, 11]], ["Sigma-/LP+", [8, 11], [8]], ["LP-/Sigma+", [8], [7, 8]], ["Pi-/LP+", [3, 7], [3]], ["LP-/Sigma+", [3], [3, 13]], ["Sigma-/LP+", [5, 13], [5]], ["LP-/Sigma+", [5], [4, 5]], ["Pi-/LP+", [2, 4], [2]], ["LP-/Pi+", [2], [2, 4]], ["Sigma-/LP+", [4, 12], [12]], ["LP-/Sigma+", [12], [12, 14]], ["Sigma-/LP+", [5, 14], [5]], ["LP-/Sigma+", [5], [5, 11]], ["Pi-/LP+", [8, 11], [8]], ["LP-/Pi+", [8], [7, 8]], ["Pi-/LP+", [3, 7], [3]]]}
{"reaction_name": "[2,3]-Oxonium ylide rearrangement", "rsmi": "[CH3:1][O+:5]([CH2-:2])[CH2:3][CH:4]=[CH2:6]>>[CH3:1][O:5][CH2:2][CH2:3][CH:4]=[CH2:6]", "epd": [["LP-/Sigma+", [2], [2, 3]], ["Sigma-/LP+", [3, 5], [5]]]}
{"reaction_name": "Enolate halogenation", "rsmi": "[Br:4][Br:5].[CH2-:1][C:6]([CH3:2])=[O:3]>>[Br-:5].[CH2:1]([Br:4])[C:6]([CH3:2])=[O:3]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [4, 5], [5]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[cH:2]1[cH:8][c:9]2[c:24]([cH:12][cH:25]1)[CH:21]=[CH:7][CH:18]2[Li:11].[n+:1]1([CH3:13])[c:3]2[cH:14][cH:19][cH:16][cH:5][c:22]2[cH:10][c:23]2[c:4]1[cH:15][cH:20][cH:17][cH:6]2>>[Li+:11].[N:1]1([CH3:13])[c:3]2[cH:14][cH:19][cH:16][cH:5][c:22]2[CH:10]([CH:18]2[CH:7]=[CH:21][c:24]3[c:9]2[cH:8][cH:2][cH:25][cH:12]3)[c:23]2[c:4]1[cH:15][cH:20][cH:17][cH:6]2", "epd": [["Sigma-/Sigma+", [18, 11], [18, 10]], ["Pi-/Pi+", [10, 22], [22, 3]], ["Pi-/LP+", [3, 1], [1]]]}
